US07115611B2
D] (Z)-4,4,4-Trifluoro-3-hydroxy-1-(4-trifluoromethoxy-phenyl)-but-2-en-1-one
25 g (122 mmol) 1-(4-Trifluoromethoxy-phenyl)-ethanone were added to a suspension of 16.5 g (147 mmol) potassium-tert-butylate in 250 ml toluene. The suspension was cooled to 2° C. and 17.5 ml (147 mmol) ethyltrifluoroacetate were added within 15 min. The mixture was stirred at ambient temperature for 14 h, cooled to 2° C. and brought to pH 6 with 10% aqueous H2SO4. Twofold extraction with tert-butyl methylether was followed by washing of the combined extracts with brine/ice water 1/1 and drying of the organic layer over sodium sulfate. The solvent was removed under reduced pressure and the residue purified by flash chromatography (silica gel, dichloromethane) to give 30.5 g (102 mmol, 83%) of the title compound as red oil.

reactant | 1-(4-Trifluoromethoxy-phenyl)-ethanone | 122 mmol, 25 g | FC(OC1=CC=C(C=C1)C(C)=O)(F)F | C9H7F3O2
reactant | ethyltrifluoroacetate | 147 mmol, 17.5 ml | C(C)OC(C(F)(F)F)=O | C4H5F3O2
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | (Z)-4,4,4-Trifluoro-3-hydroxy-1-(4-trifluoromethoxy-phenyl)-but-2-en-1-one | 102 mmol, 30.5 g, 83% | FC(/C(=C/C(=O)C1=CC=C(C=C1)OC(F)(F)F)/O)(F)F | C11H6F6O3
